US07538123B2
(1) 5-Allyloxy-2-methylbenzoxazole
2.58 g of 5-hydroxy-2-methylbenzoxazole (publication: Synthesis, 1982, 68-69) was dissolved in 15 ml of N,N-dimethylformamide and 15 ml of acetonitrile. Thereafter, 2.39 g of potassium carbonate and 1.61 ml of allyl bromide were successively added to the reaction solution. Approximately 6 hours later, water and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with water and a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, and the residue was then purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 2.78 g of the subject compound.

reactant | 5-hydroxy-2-methylbenzoxazole | 2.58 g | OC=1C=CC2=C(N=C(O2)C)C1 | C8H7NO2
reactant | potassium carbonate | 2.39 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.61 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Allyloxy-2-methylbenzoxazole | 2.78 g | C(C=C)OC=1C=CC2=C(N=C(O2)C)C1 | C11H11NO2
